US05071851
2,6-Dimethyl-4-[4-(2-cyclohexylprop-2-yl)-cyclohexyl]-morpholine
41.4 g (0.3 mole) of potassium carbonate is added to a solution of 23.3 g (0.1 mole) of 4-(2-cyclohexylprop-2-yl)-cyclohexylamine and 17.1 g (0.1 mole) of di-(1-chloro-2-propyl)-ether in 200 ml of cyclohexanol, and the mixture is refluxed for 8 hours while stirring. After cooling, approx. 100 ml of water is added, and the organic phase is separated and dried over a small amount of Na2SO4. The residue remaining after the cyclohexanol has been distilled off is fractionally distilled under reduced pressure. At 160°-164° C./0.2 mm there is obtained 16 g (50% of theory) of the captioned compound as a colorless oil (isomer mixture; compound no. 1).

reactant | potassium carbonate | 0.3 mole, 41.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2-cyclohexylprop-2-yl)-cyclohexylamine | 0.1 mole, 23.3 g | C1(CCCCC1)C(C)(C)C1CCC(CC1)N | C15H29N
reactant | di-(1-chloro-2-propyl)-ether | 0.1 mole, 17.1 g | ClCC(C)OC(CCl)C | C6H12Cl2O
reactant | water | approx. 100 ml | O | H2O
solvent | cyclohexanol | 200 ml | C1(CCCCC1)O | C6H12O
product | 2,6-Dimethyl-4-[4-(2-cyclohexylprop-2-yl)-cyclohexyl]-morpholine | CC1CN(CC(O1)C)C1CCC(CC1)C(C)(C)C1CCCCC1 | C21H39NO
